US07985753B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-[1-methyl-7-(2H-tetrazol-5-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 1-Methyl-7-(2H-tetrazol-5-yl)-1,2,3,4-tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 1-Methyl-7-(2H-tetrazol-5-yl)-1,2,3,4-tetrahydro-isoquinoline | CC1NCCC2=CC=C(C=C12)C=1N=NNN1 | C11H13N5
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-[1-methyl-7-(2H-tetrazol-5-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=CC(=CC=C1CC2)C=2N=NNN2)C | C18H15BrN8O
